US07662824B2
a) Benzooxazol-5-yl-acetic acid
The mixture of (3-amino-4-hydroxy-phenyl)-acetic acid (250 mg, 1.5 mmol) and triethyl orthoformate (30 mg, 2.0 mmol) in toluene was refluxed for 3 h, cooled to room temperature and concentrated. The resulting solid was collected, washed with 1:3 ethyl acetate:hexane and dried to give the title compound (220 mg, 83%). 1H NMR (400 MHz, DMSO) δ 12.4 (b s, 1H), 8.70 (s, 1H), 7.68 (d, J=6.7 Hz, 1H), 7.66 (s, 1H), 7.31 (d, J=6.8 Hz, 1H), 3.33 (s, 2H). Mass spectrum (LCMS, ESI pos.): Calcd for C9H7NO3: 177.2. Found: 178.2 (M+H).

reactant | (3-amino-4-hydroxy-phenyl)-acetic acid | 1.5 mmol, 250 mg | NC=1C=C(C=CC1O)CC(=O)O | C8H9NO3
reactant | triethyl orthoformate | 2.0 mmol, 30 mg | C(OCC)(OCC)OCC | C7H16O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Benzooxazol-5-yl-acetic acid | 220 mg, 83% | O1C=NC2=C1C=CC(=C2)CC(=O)O | C9H7NO3
